US04550105
To a solution of 5.0 g of 2-(2-amino-4-thiazolyl)-(Z)-2-(n-propoxyimino)acetic acid methyl ester in 35 ml of N,N-dimethylacetamido is added dropwise under ice-cooling and stirring 3.25 g of chloroacetyl chloride in the course of 10 minutes. The mixture is stirred for one hour at room temperature, then poured into 200 ml of ice-water, whereupon an oily product separates out, which is left standing to crystallize. The crystals are collected by filtration, washed with water and dried to yield 6.35 g (96.7%) of 2-(2-chloroacetamido-4-thiazolyl)-(Z)-2-(n-propoxyimino)acetic acid methyl ester, m.p. 100° C.

reactant | 2-(2-amino-4-thiazolyl)-(Z)-2-(n-propoxyimino)acetic acid methyl ester | 5.0 g | COC(\C(=N/OCCC)\C=1N=C(SC1)N)=O | C9H13N3O3S
reactant | chloroacetyl chloride | 3.25 g | ClCC(=O)Cl | C2H2Cl2O
product | 2-(2-chloroacetamido-4-thiazolyl)-(Z)-2-(n-propoxyimino)acetic acid methyl ester | 6.35 g, 96.7% | COC(\C(=N/OCCC)\C=1N=C(SC1)NC(CCl)=O)=O | C11H14ClN3O4S
